US03970754
Preparation of 5-chloro-3-cyclohexyl-1-methylpyrazole
Phosphorus oxychloride (15.3 g, 0.1 mole) is added to 3-cyclohexyl-1-methyl-2-pyrazolin-5-one and the mixture stirred and heated at 120°C. to 135°C. for 8 hours. The cooled reaction mixture is then poured into ice-water, made alkaline with 1% aqueous sodium hydroxide and extracted with methylene chloride. Removal of solvent under reduced pressure, then in vacuo at 70°C. affords an oil, 8 g, (93.8%).

reactant | Phosphorus oxychloride | 0.1 mole, 15.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-cyclohexyl-1-methyl-2-pyrazolin-5-one | C1(CCCCC1)C1=NN(C(C1)=O)C | C10H16N2O
reactant | sodium hydroxide | [OH-].[Na+]
product | 5-chloro-3-cyclohexyl-1-methylpyrazole | ClC1=CC(=NN1C)C1CCCCC1 | C10H15ClN2
